US08242145B2
Step 5: {3-[2-(2-Oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester
To 2-oxazolidone (0.083 g, 1.0 mmol) in 1,4-dioxane (10 mL) was added sodium hydride (60% in mineral oil; 0.041 g, 1.03 mmol), and the mixture was stirred for 10 minutes. [3-(2-Bromomethyl-phenoxy)-phenyl]-acetic acid ethyl ester (0.30 g, 0.86 mmol) was added in 1,4-dioxane, and the reaction was stirred for 1 hour at room temperature. After work-up, the crude material was purified by preparative HPLC to give the desired product (0.14 g).

reactant | 2-oxazolidone | 1.0 mmol, 0.083 g | O1[C-]=NC(C1)=O
reactant | sodium hydride | 1.03 mmol, 0.041 g | [H-].[Na+]
reactant | [3-(2-Bromomethyl-phenoxy)-phenyl]-acetic acid ethyl ester | 0.86 mmol, 0.30 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=CC=C1)CBr)=O | C17H17BrO3
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | {3-[2-(2-Oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | 0.14 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=CC=C1)CN1C(OCC1)=O)=O | C20H21NO5
